US04185115
Preparation of Ethyl p-[(8-Phenyloctyl)amino]benzoate
A mixture of 14.9 g. of ethyl p-aminobenzoate, 50 ml. of hexamethylphosphoramide, 10.1 g. of 8-phenyloctyl chloride and 6.75 g. of sodium iodide is stirred and heated in an oil bath at 110° C. for 24 hours. The mixture is chilled, diluted with 50 ml. of water and 25 ml. of ethanol, chilled and filtered. The solid is washed with ethanol-water (1:1) and with water to give crystals, m.p. 61°-68° C. Recrystallization from ethanol gives white crystals, m.p. 75°-76° C.

reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 8-phenyloctyl chloride | C1(=CC=CC=C1)CCCCCCCCCl | C14H21Cl
reactant | sodium iodide | [I-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | Ethyl p-[(8-Phenyloctyl)amino]benzoate | C1(=CC=CC=C1)CCCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C23H31NO2
